US07902220B2
c. 3-(8-Benzyl-8-aza-bicyclo[3.2.1]oct-2-en-3-yl)-2-hydroxy-benzamide
Trifluoroacetic Acid (50 mL) and sulfuric acid (20 mL) were added to crude 3-(8-benzyl-8-aza-bicyclo[3.2.1]oct-2-en-3-yl)-2-tert-butoxy -benzonitrile (37.53 g, 0.101 mol) and the reaction mixture was heated at 65° C. overnight, poured into ice water and neutralized to pH 7. The aqueous layer was extracted EtOAc (3×) and the solvent was evaporated. The reaction mixture was purified by silica gel chromatography (10 min 7% MeOH:DCM, 10 min 10% MeOH: DCM, ramping to 20% MeOH:DCM over 30 min) to provide the title compound (22.15 g). (m/z): [M+H]+ calcd for C21H22N2O2 335.17; found 335.4

reactant | Trifluoroacetic Acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(8-benzyl-8-aza-bicyclo[3.2.1]oct-2-en-3-yl)-2-tert-butoxy -benzonitrile | 0.101 mol, 37.53 g | C(C1=CC=CC=C1)N1C2C=C(CC1CC2)C=2C(=C(C#N)C=CC2)OC(C)(C)C | C25H28N2O
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | 3-(8-Benzyl-8-aza-bicyclo[3.2.1]oct-2-en-3-yl)-2-hydroxy-benzamide | 22.15 g | C(C1=CC=CC=C1)N1C2C=C(CC1CC2)C=2C(=C(C(=O)N)C=CC2)O | C21H22N2O2
